US07517910B2
3-(2-methyl-1H-indol-1-yl)benzaldehyde
1-[3-(1,3-Dioxolan-2-yl)phenyl]-2-methyl-1H-indole (1.1 g, 3.94 mmol) synthesized according to the method described in J. Am. Chem. Soc., 2002, vol. 124, pp. 11684-11688 was dissolved in tetrahydrofuran (40 mL), 5 N hydrochloric acid (10 mL) was added to the solution, and the mixture was stirred at 50° C. for 40 min. Water was added to the reaction solution and the mixture was extracted with ethyl acetate. The extract was washed with aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was subjected to silica gel column chromatography (ethyl acetate:hexane=1:6) to give the title compound (50 mg, yield 5%) as a pale-yellow oil. MS: m/z 236 (MH+).

reactant | 1-[3-(1,3-Dioxolan-2-yl)phenyl]-2-methyl-1H-indole | 3.94 mmol, 1.1 g | O1C(OCC1)C=1C=C(C=CC1)N1C(=CC2=CC=CC=C12)C | C18H17NO2
reactant | hydrochloric acid | 5 N, 10 mL | Cl | ClH
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 3-(2-methyl-1H-indol-1-yl)benzaldehyde | 50 mg, yield 5% | CC=1N(C2=CC=CC=C2C1)C=1C=C(C=O)C=CC1 | C16H13NO
